US08669381B2
To a solution of 2,2-difluoropropanoic acid (330 mg, 2.97 mmol) in DCM (5 mL) was added P2O5 (3.3 g, 29.7 mmol) at room temperature and the mixture was stirred for 2 days to give 2,2-difluoropropanoic anhydride. To a suspension of Intermediate A-2a (170 mg, 0.59 mmol) in TEA (5 mL) was added dropwise the 2,2-difluoropropanoic anhydride in DCM at 0˜10° C. The mixture was stirred at room temperature for 2 h. The volatiles were evaporated and the residue was purified by prep-TLC (PE:EA=1:1) to afford methyl 4-(2-(1,1-difluoroethyl)-7-hydroxy-4-oxo-4H-chromen-3-yl)benzoate as brown oil (45 mg, 21%).

reactant | 2,2-difluoropropanoic acid | 2.97 mmol, 330 mg | FC(C(=O)O)(C)F | C3H4F2O2
reactant | P2O5 | 29.7 mmol, 3.3 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2-difluoropropanoic anhydride | FC(C(=O)OC(C(C)(F)F)=O)(C)F | C6H6F4O3
